US06194409B1
4.3 mL of methanesulfonyl chloride was added dropwise at 5° C. to a stirred solution of 6.0 g of 1,3-dimethoxy-propan-2-ol and 9.0 mL of triethylamine in 60 mL of dichloromethane. Stirring was continued for 72 hours at room temperature, followed by extraction with water. The combined organic extracts were dried (sodium sulfate) and concentrated and the residue purified by silica chromatography (isohexane/ethyl acetate=9/1, 8/2, 7/3, 6/4 v/v) yielding 2.5 g of methanesulfonic acid 2-methoxy-1-methoxymethyl-ethyl ester as an oil. EI-MS: 198 (M+).

reactant | methanesulfonyl chloride | 4.3 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1,3-dimethoxy-propan-2-ol | 6.0 g | COCC(COC)O | C5H12O3
reactant | triethylamine | 9.0 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | methanesulfonic acid 2-methoxy-1-methoxymethyl-ethyl ester | 2.5 g | COCC(COC)OS(=O)(=O)C | C6H14O5S
